US05994321
5-Amino-3-(1,3-dihydroxy-2-propoxymethyl)thiazolo[4,5-d]pyrimidine-2,7(3H, 6H)-dione (T70169)
A mixture of 5-Amino-3-(1,3-dibenzoyloxy-2-propoxymethyl)thiazolo[4,5-d]pyrimidine-2,7(3H, 6H)-dione (0.4 g, 0.798 mmol), sodium methoxide (0.2 g) and MeOH (100 mL) was stirred at ambient temperature for 18 h. Amberlite IR-120(H+) (1 g, washed with H2O, then MeOH) was added and the mixture was stirred until neutral. The resin was removed by filtration and the MeOH solution was evaporated. The residue was extracted with Et2O (2×50 mL) and then crystallized from H2O . The crystalline product was dried in vacuum at 90° C. for 2 days; 0.115 g (0.399 mmol, 50%), mp 256-258° C. Ir (KBr): ν3370, 3210 and 3170 (NH, NH2, OH), and 1650 broad(C=O, C=N) cm-1. Uv, λmax (nm) (ε×10-3): pH 1, 302 (9.62), 248 (9.16), 216 (27.6); MeOH, 302 (9.08), 248 (8.43), 216 (25.0); pH 11, 292 (7.37), 246 (8.04). 1H nmr (DMSO-d6): δ3.28-3.34 (m, 2H, CH2), 3.41-3.46 (m, 2H, CH2), 3.66 (t, 1H, CH), 4.53 (t, 2H, 2 OH), 5.24 (s, 2H, NCH2), 6.91 (br s, 2H, NH2), and 11.13 (br s, 1H, NH). Anal. Calc'd for C9H12N4O5S (288.28): C, 37.50; H, 4.08; N, 19.43. Found: C, 37.43; H, 4.08; N, 19.23.

reactant | 5-Amino-3-(1,3-dibenzoyloxy-2-propoxymethyl)thiazolo[4,5-d]pyrimidine-2,7(3H, 6H)-dione | 0.798 mmol, 0.4 g | NC=1NC(C2=C(N1)N(C(S2)=O)COC(COC(C2=CC=CC=C2)=O)COC(C2=CC=CC=C2)=O)=O | C23H20N4O7S
reactant | sodium methoxide | 0.2 g | C[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | 5-Amino-3-(1,3-dihydroxy-2-propoxymethyl)thiazolo[4,5-d]pyrimidine-2,7(3H, 6H)-dione | NC=1NC(C2=C(N1)N(C(S2)=O)COC(CO)CO)=O | C9H12N4O5S
